US07091220B2
The reaction of 14.0 ml (0.108 mol) dimethylamine solution and 4.6 ml (0.040 mol) 2-methylbenzaldehyde in accordance with general synthesis instructions 1 and subsequent reaction with 2.4 ml (0.040 mol) acetyl chloride in accordance with general synthesis instructions 3 gave 5.3 g (corresponding to 73% of the yield calculated by theory) dimethyl-(2-methyl-benzylidene)-ammonium chloride.

reactant | dimethylamine | 0.108 mol, 14.0 ml | CNC | C2H7N
reactant | 2-methylbenzaldehyde | 0.040 mol, 4.6 ml | CC1=C(C=O)C=CC=C1 | C8H8O
reactant | acetyl chloride | 0.040 mol, 2.4 ml | C(C)(=O)Cl | C2H3ClO
product | dimethyl-(2-methyl-benzylidene)-ammonium chloride | [Cl-].C[N+](=CC1=C(C=CC=C1)C)C | InChI=1S/C10H14N.ClH/c1-9-6-4-5-7-10(9)8-11(2)3;/h4-8H,1-3H3;1H/q+1;/p-1
